US04898872
3,4-Dihydro-4,8-dimethyl-6-(2-methylbenzimidazol-1-yl)-2-(1H)-quinolone
3,4-Dihydro-4,8-dimethyl-6-[(N-2-aminophenyl)-amino]-2-(1H)-quinolone (0.39 g) was added with stirring to glacial acetic acid (3 cm3) and the mixture heated under reflux for 5 hours. Solvent was evaporated in vacuo and the residue partitioned between saturated sodium carbonate solution (40 cm3) and dichloromethane (50 cm3). The aqueous phase was separated and re-extracted with dichloromethane (2×50 cm3) and the combined and dried (MgSO4) organic extracts were evaporated in vacuo to give a solid which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]). Elution with methanol:chloroform, 1:100 by volume followed by combination and evaporation at appropriate fractions gave a solid which was triturated with diethyl ether to afford the title compound, m.p. 248°-252°, (0.11 g).

reactant | 3,4-Dihydro-4,8-dimethyl-6-[(N-2-aminophenyl)-amino]-2-(1H)-quinolone | 0.39 g | CC1CC(NC2=C(C=C(C=C12)NC1=C(C=CC=C1)N)C)=O | C17H19N3O
reactant | acetic acid | 3 cm3 | C(C)(=O)O | C2H4O2
product | 3,4-Dihydro-4,8-dimethyl-6-(2-methylbenzimidazol-1-yl)-2-(1H)-quinolone | CC1CC(NC2=C(C=C(C=C12)N1C(=NC2=C1C=CC=C2)C)C)=O | C19H19N3O
